US08304419B2
Step A: bis(1,1-dimethylethyl)(4-bromo-5-formyl-1H-imidazol-2-yl)imidodicarbonate
NBS (0.206 g, 1.156 mmol) was added to a solution of bis(1,1-dimethylethyl)(4-formyl-1H-imidazol-2-yl)imidodicarbonate (0.300 g, 0.964 mmol) in DMF (3 mL). The mixture was heated at 50° C. for 3 hrs. The reaction mixture was diluted with EtOAc and washed 2× with water. The organic layer was dried over sodium sulfate and concentrated. Chromatography (EtOAc:hexane) gave the desired product (0.154 g, 41%) as a white solid. 1H NMR (400 MHz, chloroform-d) δ ppm 10.54 (br. s., 1H), 9.54 (s, 1H), 1.50 (s, 18H). ES MS: m/z 390.

reactant | NBS | 1.156 mmol, 0.206 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | bis(1,1-dimethylethyl)(4-formyl-1H-imidazol-2-yl)imidodicarbonate | 0.964 mmol, 0.300 g | CC(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C=1NC=C(N1)C=O | C14H21N3O5
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | bis(1,1-dimethylethyl)(4-bromo-5-formyl-1H-imidazol-2-yl)imidodicarbonate | 0.154 g, 41% | CC(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C=1NC(=C(N1)Br)C=O | C14H20BrN3O5
